US07619096B2
Preparation 11: 1,1-Dimethylethyl (3S)-3-({[4-fluoro-2-(trifluoromethyl)-phenyl]methyl}amino)pyrrolidine-1-carboxylate
1,1-Dimethylethyl (3S)-3-aminopiperidine-1-carboxylate (5 g) and 4-fluoro-2-(trifluoromethyl)benzaldehyde (5.15 g, 26.8 mmol) were allowed to stir in methanol for 16 h at room temperature. Sodium borohydride (1.62 g, 26.8 mmol) was then added portionwise. The resulting solution was further stirred for 2 h at room temperature. The solvent was evaporated in vacuo, water was added, and the solution extracted with dichloromethane. The organic extracts were absorbed onto a methanol washed cationic ion exchange resin (Isolute™ SCX-2). The basic components were recovered from the column by elution with 7N ammonia in methanol. The resultant solution was concentrated in vacuo to yield the desired compound as an oil. This was further purified by column chromatography on silica gel, eluting with ethyl acetate/iso-hexane (0:100 to 40:60). The title compound was used in subsequent reactions without further purification. 1H NMR (300 MHz, CDCl3) δH: 7.37-7.28 (m, 2H), 7.24-7.20 (m, 1H), 3.80 (s, 2H), 3.52-3.48 (m, 2H), 3.32 (m, 3H), 3.12 (m, 1H), 2.08-2.0 (m, 1H), 1.75 (m, 1H), 1.45 (s, 9H).

reactant | 1,1-Dimethylethyl (3S)-3-aminopiperidine-1-carboxylate | 5 g | N[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | 4-fluoro-2-(trifluoromethyl)benzaldehyde | 26.8 mmol, 5.15 g | FC1=CC(=C(C=O)C=C1)C(F)(F)F | C8H4F4O
reactant | Sodium borohydride | 26.8 mmol, 1.62 g | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | 1,1-Dimethylethyl (3S)-3-({[4-fluoro-2-(trifluoromethyl)-phenyl]methyl}amino)pyrrolidine-1-carboxylate | FC1=CC(=C(C=C1)CN[C@@H]1CN(CC1)C(=O)OC(C)(C)C)C(F)(F)F | C17H22F4N2O2
